US07291615B2
(1S,2R,4R)—N-[4-(isopropyl-methyl-amino)-2-(4-propyl-benzenesulfonylmethyl)-cyclohexyl]-2-(4-trifluoromethyl-1H-benzoimidazol-2-yl)-acetamide
(1S,2R,4R)—N-[2-(4-Bromo-benzenesulfonylmethyl)-4-(isopropyl-methyl-amino)-cyclohexyl]-2-(4-trifluoromethyl-1H-benzoimidazol-2-yl)-acetamide, Example 3, was dissolved in THF (1 ml) prior to the addition of propyl zinc bromide (0.32 ml), Pd(PPh3)4 (3 mg). The mixture was stirred under microwave conditions (150° C.) for 5 min. After cooling, the crude reaction was filtered and the filtrate was concentrated. Reverse phase HPLC purification (gradient elution, water/acetonitrile/TFA) of the resulting residue provided the two fractions, one of which contained the title compound (8 mg). MS found: (M+H)+=594.5

reactant | (1S,2R,4R)—N-[2-(4-Bromo-benzenesulfonylmethyl)-4-(isopropyl-methyl-amino)-cyclohexyl]-2-(4-trifluoromethyl-1H-benzoimidazol-2-yl)-acetamide | BrC1=CC=C(C=C1)S(=O)(=O)C[C@H]1[C@H](CC[C@H](C1)N(C)C(C)C)NC(CC1=NC2=C(N1)C=CC=C2C(F)(F)F)=O | C27H32BrF3N4O3S
reactant | propyl zinc bromide | 0.32 ml | [Br-].C(CC)[Zn+]
solvent | THF | 1 ml | C1CCOC1 | C4H8O
catalyst | Pd(PPh3)4 | 3 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (1S,2R,4R)—N-[4-(isopropyl-methyl-amino)-2-(4-propyl-benzenesulfonylmethyl)-cyclohexyl]-2-(4-trifluoromethyl-1H-benzoimidazol-2-yl)-acetamide | 8 mg | C(C)(C)N([C@H]1C[C@H]([C@H](CC1)NC(CC1=NC2=C(N1)C=CC=C2C(F)(F)F)=O)CS(=O)(=O)C2=CC=C(C=C2)CCC)C | C30H39F3N4O3S
